US06458772B1
c) 3,4-Di-(N-CBZ-L-valyloxy)hydrocinnamic acid
4-Methoxybenzyl-3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate (10 g, 13 mmol) was dissolved in dichloromethane and 1,1,1 trifluoroacetic acid (30 ml) and left at ambient temperature for 3.5 h. Evaporation under reduced pressure and purification by chromatography (chloroform-methanol, 10:1) yielded 6.7 g (80%) pure title product. The compound can be activated and esterified to a drug or further modifiedas described below.

reactant | 4-Methoxybenzyl-3,4-di-(N-CBZ-L-valyloxy)hydrocinnamate | 13 mmol, 10 g | COC1=CC=C(CC(C(=O)[O-])CC2=CC(=C(C=C2)OC([C@@H](NC(=O)OCC2=CC=CC=C2)C(C)C)=O)OC([C@@H](NC(=O)OCC2=CC=CC=C2)C(C)C)=O)C=C1
reactant | 1,1,1 trifluoroacetic acid | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-Di-(N-CBZ-L-valyloxy)hydrocinnamic acid | 6.7 g, 80% | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC=1C=C(CCC(=O)O)C=CC1OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C35H40N2O10
